US08871738B2
To DIPEA (7.48 mL, 42.8 mmol) and (1S)-1-[2-bromo-5-(trifluoromethyl)phenyl]pent-4-en-1-amine (4.4 g, 14.3 mmol) in DCM (20 mL) was added benzyl chloroformate at 0° C. The reaction was stirred at room temperature for 2 hours and was quenched with water. The organic was washed with 10% aqueous KOH and the aqueous was back-extracted with ethyl acetate. The combined organics were dried over sodium sulfate, filtered, concentrated and then purified by column chromatography to yield benzyl {(1S)-1-[2-bromo-5-(trifluoromethyl)phenyl]pent-4-en-1-yl}carbamate (5.8 g, 13.1 mmol). 1H NMR (500 MHz, CDCl3) δ 7.72 (m, 1H), 7.58 (s, 1H), 7.39 (b, 5H), 7.1 (m, 1H), 5.83 (m, 1H), 5.3 (b, 1H), 5.15 (m, 3H), 2.22 (m, 1H), 2.18 (m, 1H), 1.95 (m, 1H), 1.78 (m, 1H).

reactant | DIPEA | 42.8 mmol, 7.48 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (1S)-1-[2-bromo-5-(trifluoromethyl)phenyl]pent-4-en-1-amine | 14.3 mmol, 4.4 g | BrC1=C(C=C(C=C1)C(F)(F)F)[C@H](CCC=C)N | C12H13BrF3N
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | benzyl {(1S)-1-[2-bromo-5-(trifluoromethyl)phenyl]pent-4-en-1-yl}carbamate | 13.1 mmol, 5.8 g | BrC1=C(C=C(C=C1)C(F)(F)F)[C@H](CCC=C)NC(OCC1=CC=CC=C1)=O | C20H19BrF3NO2
